US06426345B1
The solution of 3-nitro-2-(3-succinimidophenylamino)-pyridine (3.47 g) was hydrogenated with palladium on carbon (0.5 g) at 3 atm for 5 hours. The mixture was filtrated and evaporated to give 3-amino-2-(3-succinimidophenylamino)pyridine (2.89 g).

reactant | 3-nitro-2-(3-succinimidophenylamino)-pyridine | 3.47 g | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC(=CC=C1)N1C(CCC1=O)=O | C15H12N4O4
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 3-amino-2-(3-succinimidophenylamino)pyridine | 2.89 g | NC=1C(=NC=CC1)NC1=CC(=CC=C1)N1C(CCC1=O)=O | C15H14N4O2
